US09315458B2
D) methyl 5-(2-fluoro-4-(1H-pyrazol-1-yl)benzyl)-2-hydroxy-3,4-dimethylbenzoate
To a mixture of methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.51 g), 1-(4-(chloromethyl)-3-fluorophenyl)-1H-pyrazole (0.35 g) and sodium carbonate (0.35 g) in 1,2-dimethoxyethane (7.80 mL)-water (2.60 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.10 g), and the mixture was stirred overnight at 80° C. under argon atmosphere. To the reaction mixture were added water and ethyl acetate, and the mixture was partitioned. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.54 g).

reactant | methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.51 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | 1-(4-(chloromethyl)-3-fluorophenyl)-1H-pyrazole | 0.35 g | ClCC1=C(C=C(C=C1)N1N=CC=C1)F | C10H8ClFN2
reactant | sodium carbonate | 0.35 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2.60 mL | O | H2O
solvent | 1,2-dimethoxyethane | 7.80 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(2-fluoro-4-(1H-pyrazol-1-yl)benzyl)-2-hydroxy-3,4-dimethylbenzoate | 0.54 g | FC1=C(CC=2C(=C(C(=C(C(=O)OC)C2)O)C)C)C=CC(=C1)N1N=CC=C1 | C20H19FN2O3
